US06511974B1
To a suspension of 4-(3,5-dimethylpyrazol-1-yl)benzoic acid (1.34 g) in dichloromethane (25 ml) was added oxalyl chloride (1.0 g) and one drop of dimethylformamide. The mixture was stirred at room temperature for 18 hours and the volatile material was removed under reduced pressure. The residue was dissolved in hexane and filtered through diatomaceous earth. Evaporation of the solvent in vacuo yielded 4-(3,5-dimethylpyrazol-1-yl)benzoyl chloride (0.80 g), which was used without further purification.

reactant | 4-(3,5-dimethylpyrazol-1-yl)benzoic acid | 1.34 g | CC1=NN(C(=C1)C)C1=CC=C(C(=O)O)C=C1 | C12H12N2O2
reactant | oxalyl chloride | 1.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 4-(3,5-dimethylpyrazol-1-yl)benzoyl chloride | 0.80 g | CC1=NN(C(=C1)C)C1=CC=C(C(=O)Cl)C=C1 | C12H11ClN2O
